US07858643B2
A tube was charged with 2,5-dibromopyridine (0.24 g, 1.0 mmol), 4-Amino-piperidine-1-carboxylic acid tert-butyl ester (0.22 g, 1.1 mmol), di-isopropylethylamine (0.19 mL, 1.1 mmol) and N-methylpyrrolidinone (1.0 mL). The tube was sealed and the mixture was heated at 80° C. overnight. The temperature was increased to 120° C. and heated overnight. The reaction was partitioned between ethyl acetate and water. The phases were separated and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over MgSO4 and concentrated by rotary evaporation. The residue was purified by silica gel chromatography using gradient elution of ethyl acetate and hexanes to afford 4-(5-bromo-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (36 mg, 10%).

reactant | 2,5-dibromopyridine | 1.0 mmol, 0.24 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 4-Amino-piperidine-1-carboxylic acid tert-butyl ester | 1.1 mmol, 0.22 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | di-isopropylethylamine | 1.1 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N-methylpyrrolidinone | 1.0 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(5-bromo-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 36 mg, 10% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)Br | C15H22BrN3O2
